US04985569
7a-Aminomethyl-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine
To a homogenous solution of 7a-nitromethyl-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine (1.00 g, 5.88 mmol) and NaOH (0.235 g (5.88 mmol) in 5 ml of ethanol, 0.40 g of Raney nickel were added to stir the mixture under hydrogen atmosphere at 20° C. for 12 hours. The catalyst was filtered off, and then the filtrate was poured into 33% HCl/ipropanol (5.0 ml) below 20° C. The reaction mixture was evaporated to dryness to give crude crystal. The crude crystal was suspended in toluene (5.0 ml) and to the suspension was introduced NH3 gas to stir at 20° C. for 12 hours. The precipitate was filtered off and the filtrate was evaporated to afford 716 mg of the desired compound (Yield: 86.9%).

reactant | 7a-nitromethyl-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine | 5.88 mmol, 1.00 g | [N+](=O)([O-])CC12CCCN2CCC1 | C8H14N2O2
reactant | NaOH | [OH-].[Na+]
reactant | NH3 | N | H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.40 g | [Ni] | Ni
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 7a-Aminomethyl-2,3,5,6,7,7a-hexahydro-1H-pyrrolizine | 716 mg, Yield: 86.9% | NCC12CCCN2CCC1 | C8H16N2
